US06310079B1
2. 2-Amino-5-methyl-N-(2-pyridyl)aniline
A mixture of 5-methyl-2-nitro-N-(2-pyridyl)aniline (3.8 g, 16.6 mmol), 5% palladium on carbon (500 mg) in ethanol (100 ml) was stirred under a hydrogen atmosphere for 3 h. The mixture was filtered through a pad of celite and the filtrate was concentrated to dryness to give 3.3 g (quant.) of the titled compound as gray solids.

reactant | 5-methyl-2-nitro-N-(2-pyridyl)aniline | 16.6 mmol, 3.8 g | CC=1C=CC(=C(NC2=NC=CC=C2)C1)[N+](=O)[O-] | C12H11N3O2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Amino-5-methyl-N-(2-pyridyl)aniline | NC1=C(NC2=NC=CC=C2)C=C(C=C1)C | C12H13N3
